US07919518B2
To a solution of the crude isobutyl 1-tritylindazole-3-carboxylate (180 g; 0.39 mol) in THF (1 L) stirred at room temperature was added slowly a suspension of LiAlH4 (18 g; 0.48 mol) in THF (100 ml). Once the addition was complete, the mixture was stirred at room temperature for 30 minutes, and the reaction was then stopped by cooling the mixture to 0° C. and successively adding water (40 ml), 2N NaOH (40 ml) and water (60 ml). The solid thus formed was filtered off and the solution was concentrated under reduced pressure. The crude residue obtained was purified by crystallization from a 1/1 hexane/ethyl acetate mixture. 120 g of (1-tritylindazol-3-yl)methanol were obtained.

reactant | isobutyl 1-tritylindazole-3-carboxylate | 0.39 mol, 180 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C(=O)OCC(C)C | C31H28N2O2
reactant | LiAlH4 | 0.48 mol, 18 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 40 ml | O | H2O
reactant | NaOH | 2N, 40 ml | [OH-].[Na+]
reactant | water | 60 ml | O | H2O
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (1-tritylindazol-3-yl)methanol | 120 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)CO | C27H22N2O
